US05399578
a) 2'-Cyano-4-formyl-biphenyl
A solution of 53 ml of oxalyl chloride in 2 l of dichloromethane is cooled to -60°. A solution of 88 ml of dimethyl sulfoxide in 150 ml of dichloromethane is added dropwise at this temperature and the mixture is then stirred for 2 minutes. After this, a solution of 117 g of 2'-cyano-4-hydroxymethyl-biphenyl in 1 l of dichloromethane is added dropwise at -60°. After the addition has ended (after about 5 minutes), the mixture is stirred for 15 minutes. After this, 390 ml of triethylamine are added dropwise. The mixture is stirred at -60° for 2 minutes, then allowed to warm to room temperature and poured onto water. The mixture is extracted with dichloromethane, and the organic phase is washed in succession with dilute hydrochloric acid and brine, dried and concentrated. The residue is suspended in hexane, the suspension is filtered with suction, the filter cake is washed, and the product thus obtained is dried at 60° in a high vacuum (elemental analysis: 80.7% C; 4.5% H; 6.7% N; 7.7% O).

reactant | oxalyl chloride | 53 ml | C(C(=O)Cl)(=O)Cl | C2Cl2O2
reactant | dimethyl sulfoxide | 88 ml | CS(=O)C | C2H6OS
reactant | 2'-cyano-4-hydroxymethyl-biphenyl | 117 g | C(#N)C1=C(C=CC=C1)C1=CC=C(C=C1)CO | C14H11NO
reactant | triethylamine | 390 ml | C(C)N(CC)CC | C6H15N
solvent | dichloromethane | 2 l | ClCCl | CH2Cl2
solvent | dichloromethane | 150 ml | ClCCl | CH2Cl2
solvent | dichloromethane | 1 l | ClCCl | CH2Cl2
product | 2'-Cyano-4-formyl-biphenyl | C(#N)C1=C(C=CC=C1)C1=CC=C(C=C1)C=O | C14H9NO
